US08895547B2
4-[2-((S)-3-Hydroxy-1-phenylpropylamino)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl]phenol
Under inert gas, 762 mg [5-(4-benzyloxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine were initially charged in 20 ml of methanol and, with addition of 133 mg of 10% Pd/C, stirred under a hydrogen atmosphere for 1 hour. The completeness of the conversion was checked by LCMS, the reaction was once again admixed with 133 mg of 10% Pd/C and additionally 0.52 ml of triethylamine, and the mixture was stirred under a hydrogen atmosphere for a further 60 minutes. According to LCMS, the detachment of the silyl protecting group remained incomplete. After filtration to remove the solid residues, the filtrate was freed of the solvent under reduced pressure. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (104 mg) with a molecular weight of 404.5 g/mol (C20H24N2O5S); MS (ESI): m/e=405 (M+H+).

reactant | [5-(4-benzyloxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine | 762 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(=O)=O | C33H44N2O5SSi
reactant | triethylamine | 0.52 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 133 mg | [Pd] | Pd
catalyst | Pd/C | 133 mg | [Pd] | Pd
product | 4-[2-((S)-3-Hydroxy-1-phenylpropylamino)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl]phenol | 104 mg | OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)O)(C)C | C20H24N2O5S
